US08071581B2
Compound 140: 6-(6-Methoxy-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)-quinoline
To a 5 ml microwave vial 1 ml of methanol was added followed by 15 mg of potassium carbonate, and 25 mg (0.067 mmol) of 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)quinoline. The reaction mixture was heated for 3800 seconds at 130° C. in a microwave. The reaction mixture was then filtered and purified by preparatory HPLC to return the title compound (11.6 mg, 47%). Analytical data is presented in Table 2.

reactant | potassium carbonate | 15 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)quinoline | 0.067 mmol, 25 mg | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)C | C19H14ClN7
solvent | methanol | 1 ml | CO | CH4O
product | 6-(6-Methoxy-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)-quinoline | COC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)C | C20H17N7O
